US07795267B2
Hexahydro-1,1-diphenyl-1H-[1,3]oxazolo[3,4-a][1,4]diazepin-3-one
1,1-Dimethylethyl tetrahydro-3-oxo-1,1-diphenyl-1H-[1,3]oxazolo[3,4-a][1,4]diazepine-8(5H)-carboxylate (0.30 g, 0.73 mmol) was dissolved in ethyl acetate (5 mL). A 4 M hydrogen chloride/ethyl acetate solution (4 mL) was added thereto, and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and then ethyl acetate was added to the residue. The resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound (0.16 g, yield 70%).

reactant | 1,1-Dimethylethyl tetrahydro-3-oxo-1,1-diphenyl-1H-[1,3]oxazolo[3,4-a][1,4]diazepine-8(5H)-carboxylate | 0.73 mmol, 0.30 g | O=C1OC(C2N1CCCN(C2)C(=O)OC(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C24H28N2O4
reactant | hydrogen chloride ethyl acetate | 4 M, 4 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | Hexahydro-1,1-diphenyl-1H-[1,3]oxazolo[3,4-a][1,4]diazepin-3-one | 0.16 g, yield 70% | C1(=CC=CC=C1)C1(OC(N2C1CNCCC2)=O)C2=CC=CC=C2 | C19H20N2O2
